US06982274B2
3-Benzo[b]thiophen-2-yl-1H-5-indazolecarboxylic acid
To 288 mg of 3-benzo[b]thiophen-2-yl-1H-5-indazolecarbonitrile were added 3 ml of glacial acetic acid, 1 ml of water and 0.8 ml of concentrated sulfuric acid, and the mixture was stirred at 110° C. for 4 hours. After standing to cool, the mixture was added with 120 ml of ethyl acetate, sequentially washed with water and brine, dried over anhydrous magnesium sulfate. After filtering the organic layer through a silica gel pat, the solvent was evaporated, to give 307 mg of the title compound as ocher yellow crystals.

reactant | 3-benzo[b]thiophen-2-yl-1H-5-indazolecarbonitrile | 288 mg | S1C2=C(C=C1C1=NNC3=CC=C(C=C13)C#N)C=CC=C2 | C16H9N3S
reactant | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
reactant | water | 1 ml | O | H2O
reactant | sulfuric acid | 0.8 ml | S(O)(O)(=O)=O | H2O4S
solvent | ethyl acetate | 120 ml | C(C)(=O)OCC | C4H8O2
product | 3-Benzo[b]thiophen-2-yl-1H-5-indazolecarboxylic acid | 307 mg | S1C2=C(C=C1C1=NNC3=CC=C(C=C13)C(=O)O)C=CC=C2 | C16H10N2O2S
